US04770689
0.07 Parts of sodium nitrite and 0.6 parts of nitric acid were solved in 2 parts of deionisized water. 1.0 Part of methyl 1-[1-(4-methylphenyl)butyl]-2-mercapto-1H-imidazole-5-carboxylate was added portionwise at a temperature between 25° C. and 30° C. The precipitate was isolated, yielding 0.94 parts (86% ) of methyl 1-[1-(4-methylphenyl)butyl]-1H-imidazole-5-carboxylate mononitriate. This colourless salt has a melting point of 141°-143° C. (compound 1.15).

reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | methyl 1-[1-(4-methylphenyl)butyl]-2-mercapto-1H-imidazole-5-carboxylate | CC1=CC=C(C=C1)C(CCC)N1C(=NC=C1C(=O)OC)S | C16H20N2O2S
solvent | water | O | H2O
product | methyl 1-[1-(4-methylphenyl)butyl]-1H-imidazole-5-carboxylate | 86% | CC1=CC=C(C=C1)C(CCC)N1C=NC=C1C(=O)OC | C16H20N2O2
